US04833153
(i) 1,4,5,6-tetrahydro-2-(4-nitrophenyl)-pyrimidine
4-Nitrobenzonitrile (17.76 g) was added to a solution of sodium metal (0.138 g) in dry ethanol (150 ml) at room temperature, and the mixture was stirred for 6 h. To the suspension was added 1,3-diaminopropane (8.88 g) and the mixture was heated under reflux for 4 days. Evaporation of the solvent under reduced pressure gave a solid which was dissolved in hot ethyl acetate (450 ml). The solution was extracted with 2N hydrochloric acid (90 ml, 20 ml). The combined acidic extracts were washed with ethyl acetate (100 ml) and then basified with 5N sodium hydroxide (60 ml). The emulsion was extracted into hot ethyl acetate (250 ml, 2×100 ml), the organic extracts were combined, reduced to about 250 ml by evaporation and hot cyclohexane (125 ml) was added. On cooling the title compound deposited as needles (17.7 g), m.p. 168°-172°.

reactant | 4-Nitrobenzonitrile | 17.76 g | [N+](=O)([O-])C1=CC=C(C#N)C=C1 | C7H4N2O2
reactant | sodium | 0.138 g | [Na] | Na
reactant | 1,3-diaminopropane | 8.88 g | NCCCN | C3H10N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
product | 1,4,5,6-tetrahydro-2-(4-nitrophenyl)-pyrimidine | [N+](=O)([O-])C1=CC=C(C=C1)C=1NCCCN1 | C10H11N3O2
